US07473694B2
Synthesis of 6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5,7-dichloropyrazolo[1,5-a]pyrimidine
To a methylene chloride (50 mL) solution containing 2-(5,7-dichloropyrazolo[1,5-a]pyrimidin-6-yl)ethanol (640 mg, 2.77 mmol), triethylamine (3.86 mL, 27.7 mmol) and tert-butylchlorodimethylsilane (1.25 g, 8.31 mmol) were added, and this mixture was stirred at room temperature for 16 hr. After the reaction, aqueous ammonium chloride was added to the reaction solution, and the mixture was extracted with ethyl acetate. The combined ethyl acetate layer was washed with saturated aqueous sodium hydrogen carbonate and then brine and dried over sodium sulfate. After the sodium sulfate was filtered off, the solvent was distilled off and the residue was purified with column chromatography (15% ethyl acetate-hexane) to obtain the title compound (1.04 g).

reactant | 2-(5,7-dichloropyrazolo[1,5-a]pyrimidin-6-yl)ethanol | 2.77 mmol, 640 mg | ClC1=NC=2N(C(=C1CCO)Cl)N=CC2 | C8H7Cl2N3O
reactant | triethylamine | 27.7 mmol, 3.86 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodimethylsilane | 8.31 mmol, 1.25 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-(tert-butyldimethylsilanyloxy)ethyl]-5,7-dichloropyrazolo[1,5-a]pyrimidine | 1.04 g | [Si](C)(C)(C(C)(C)C)OCCC=1C(=NC=2N(C1Cl)N=CC2)Cl | C14H21Cl2N3OSi
